US05036156
α-bromo(2-chloro)phenylacetic acid
A solution of 70.3 g of (2-chloro)benzaldehyde and 139 g of tribromomethane diluted in 50 ml of 1,2-dimethoxy ethane are added to a vigorously stirred mixture of 131 ml of water, 114 g of potassium hydroxide (titer 86%) and 50 ml of 1,2-dimethoxy ethane at a temperature of about -5° C. After 3 hours at about -5° C., 500 ml of water are added to the reaction mixture at a temperature lower than or equal to 0° C. then the temperature is allowed to rise to 10° C. and maintained there for 10 hours.

reactant | (2-chloro)benzaldehyde | 70.3 g | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | tribromomethane | 139 g | BrC(Br)Br | CHBr3
reactant | water | 131 ml | O | H2O
reactant | potassium hydroxide | 114 g | [OH-].[K+]
reactant | water | 500 ml | O | H2O
reactant | 1,2-dimethoxy ethane | 50 ml | COCCOC | C4H10O2
reactant | 1,2-dimethoxy ethane | 50 ml | COCCOC | C4H10O2
product | α-bromo(2-chloro)phenylacetic acid | BrC(C(=O)O)C1=C(C=CC=C1)Cl | C8H6BrClO2
